US05661108
A solution of 0.6 gram (0.001 mole) of 3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil, 0.4 gram (0.003 mole) of potassium carbonate, and 0.17 mL (0.003 mole) of methyl iodide in 30 mL of acetone was stirred at ambient temperature for about 18 hours, after which the reaction mixture was concentrated under reduced pressure to a residue. The residue was taken up in diethyl ether and washed with an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to an oily residue, which was subjected to column chromatography on silica gel. Elution was accomplished using 1:3 ethyl acetate:hexane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.3 gram of 1-methyl-3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil, mp 104°-105° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil | 0.001 mole, 0.6 gram | C(C#C)N1C(=NC2=C1C=C(C(=C2)F)N2C(NC(=CC2=O)C(F)(F)F)=O)C(F)(F)F | C16H7F7N4O2
reactant | potassium carbonate | 0.003 mole, 0.4 gram | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.003 mole, 0.17 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 1-methyl-3-[1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluorobenzimidazol-6-yl]-6-trifluoromethyluracil | 0.3 gram | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C(=CC2=C(N(C(=N2)C(F)(F)F)CC#C)C1)F | C17H9F7N4O2
